US04042621
By essentially the procedure of Example 1, a tube was charged with 20 g of dimethylaniline, 20 g of dimethylformamide, and 1.0 g of cupric chloride dihydrate. The reaction was run at 114°-115° C. for one hour while oxygen was injected incrementally at 200-400 psi. The oxygen absorption was about 0.12 mole. Analysis of the reaction mixture by GC/MS showed a 94.5% conversion of dimethylaniline and a 15.4% yield of N-methyl-N-phenylformamide.

reactant | dimethylaniline | 20 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | oxygen | O=O | O2
solvent | dimethylformamide | 20 g | CN(C=O)C | C3H7NO
product | N-methyl-N-phenylformamide | 15.4% yield | CN(C=O)C1=CC=CC=C1 | C8H9NO
